US07449475B2
4-(Benzoylamino)-2-chloro-5-hydroxyphenyl benzoate
To crude N-(5-chloro-2,4-dihydroxyphenyl)benzamide (1 mmol) in acetone (10 mL) potassium carbonate (280 mg, 2 mmol) and benzoylchloride (140 mg, 1 mmol) was added. The mixture was stirred at ambient tempearature over night. The solvent was removed in vacuo and the residue purified by flash chromatography on silica using DCM and methanol in gradient. The pure compound was obtained as a white solid (153 mg, 42%).

reactant | N-(5-chloro-2,4-dihydroxyphenyl)benzamide | 1 mmol | ClC=1C(=CC(=C(C1)NC(C1=CC=CC=C1)=O)O)O | C13H10ClNO3
reactant | acetone | 2 mmol, 10 mL, 280 mg | CC(=O)C | C3H6O
reactant | benzoylchloride | 1 mmol, 140 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 4-(Benzoylamino)-2-chloro-5-hydroxyphenyl benzoate | 153 mg, 42% | C(C1=CC=CC=C1)(=O)OC1=C(C=C(C(=C1)O)NC(C1=CC=CC=C1)=O)Cl | C20H14ClNO4
